US05091419
To a mixture of 4.6 g heptylamine, 4.04 g triethylamine and 30 ml methylene dichloride, was added with stirring 4.06 g terephthaloyl chloride under ice cooling. Stirring was continued at room temperature for two hours, and the solid which separated out was collected by filtration, washed with methylene dichloride and water in that order, and dried, giving 6.5 g of N,N'-diheptylterephthalamide.

reactant | heptylamine | 4.6 g | C(CCCCCC)N | C7H17N
reactant | triethylamine | 4.04 g | C(C)N(CC)CC | C6H15N
reactant | terephthaloyl chloride | 4.06 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
solvent | methylene dichloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N,N'-diheptylterephthalamide | 6.5 g | C(CCCCCC)NC(C1=CC=C(C(=O)NCCCCCCC)C=C1)=O | C22H36N2O2
